US04073780
To a slurry of 3.12 g. of 4-pyridylformimidoylglycyl-d-phenylglycine in 40 ml. of dimethylformamide cooled to -20° C. is added 1.0 g. of N-methylmorpholine followed by 1.2 g. of thionyl chloride. The resulting clear solution is stirred for 45 min. at -15° to -20° C., and is subsequently treated with 2.16 g. of 6-aminopenicillanic acid in 20 ml. of water, 10 ml. of dimethylformamide at pH 7.8. After allowing the reaction mixture to stir for 10 min. at -10° C., it is allowed to warm to room temperature. High-pressure-liquid-chromatography of the solution indicates a yield of 335 mg. of 6- D-2-phenyl-2-(4-pyridylformimidoylaminoacetamido)acetamido!penicillanic acid (6.5% yield).

reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 6-aminopenicillanic acid | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)N)C(=O)O)C | C8H12N2O3S
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | penicillanic acid | 6.5% yield | CC1([C@@H](N2[C@H](S1)CC2=O)C(=O)O)C | C8H11NO3S
